US07772253B2
3-Carbamoylmethoxy-N-[1-(3,5-diethoxy-4-fluoro-benzyl)-piperidin-4-yl]-5-methoxy-benzamide
In analogy to the procedure described in example 50k), 3-carbamoylmethoxy-5-methoxy-N-piperidin-4-yl-benzamide hydrochloride was reacted with 3,5-diethoxy-4-fluoro-benzaldehyde (example 50 g), sodium cyanoborohydride, N-ethyl-diisopropylamine and acetic acid in ethanol at 50° C. to yield the title compound as colorless solid. MS: 504.3 (MH+).

reactant | 3-carbamoylmethoxy-5-methoxy-N-piperidin-4-yl-benzamide hydrochloride | Cl.C(N)(=O)COC=1C=C(C(=O)NC2CCNCC2)C=C(C1)OC
reactant | 3,5-diethoxy-4-fluoro-benzaldehyde | 50 g | C(C)OC=1C=C(C=O)C=C(C1F)OCC | C11H13FO3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethanol | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Carbamoylmethoxy-N-[1-(3,5-diethoxy-4-fluoro-benzyl)-piperidin-4-yl]-5-methoxy-benzamide | C(N)(=O)COC=1C=C(C(=O)NC2CCN(CC2)CC2=CC(=C(C(=C2)OCC)F)OCC)C=C(C1)OC | C26H34FN3O6
